US08791100B2
1. (5-Chloro-4-dimethoxymethyl-pyridin-2-yl)-[(R)-1-(4-chloro-3-methyl-phenyl)-propyl]-amine, INT 54
To a solution of 2-chloro-5-methylpyridine-4-carboxylic acid ethyl ester (750 mg, 3.76 mmol), (R)-1-(4-chloro-3-methyl-phenyl)-propylamine hydrochloride (992 mg, 4.51 mmol) and sodium tert-butoxide (867 mg, 9.02 mmol) in degassed toluene (54 mL) was added Pd2(dba)3 (172 mg, 0.188 mmol) and BINAP (234 mg, 0.378 mmol) and the resulting mixture was stirred at 50° C. for 5 hours. The mixture was diluted with EtOAc, washed with saturated aqueous sodium bicarbonate, water and brine, dried over sodium sulfate, filtered and concentrated. The crude product was purified by flash chromatography on silica gel (cyclohexane/EtOAc) to give INT 54.

reactant | 2-chloro-5-methylpyridine-4-carboxylic acid ethyl ester | 3.76 mmol, 750 mg | C(C)OC(=O)C1=CC(=NC=C1C)Cl | C9H10ClNO2
reactant | (R)-1-(4-chloro-3-methyl-phenyl)-propylamine hydrochloride | 4.51 mmol, 992 mg | Cl.ClC1=C(C=C(C=C1)[C@@H](CC)N)C
reactant | sodium tert-butoxide | 9.02 mmol, 867 mg | CC(C)([O-])C.[Na+]
reactant | BINAP | 0.378 mmol, 234 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
solvent | toluene | 54 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd2(dba)3 | 0.188 mmol, 172 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | (5-Chloro-4-dimethoxymethyl-pyridin-2-yl)-[(R)-1-(4-chloro-3-methyl-phenyl)-propyl]-amine | ClC=1C(=CC(=NC1)N[C@H](CC)C1=CC(=C(C=C1)Cl)C)C(OC)OC | C18H22Cl2N2O2
